US08202873B2
3′-(4-Trifluoromethyl-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazine
Prepare 2-chloro-3-(4-trifluoromethylphenyl)-pyrazine in 30% according to the procedure used to make 2-chloro-3-(4-chlorophenyl)-pyrazine. Couple 2-chloro-3-(4-trifluoromethylphenyl)-pyrazine (0.570 g, 2.20 mmol) and piperazine (4.31 g, 50.0 mmol), at 125° C. for 111 min. Cool the reaction to about 70° C., add water (50 mL), stir until the reaction temperature is below 35° C. and dilute with DCM (70 mL). Separate the layers, extract the aqueous layer with DCM (2×70 mL), wash the combined organic layers with saturated aqueous sodium chloride, dry (magnesium sulfate), concentrate and purify (silica gel chromatography, eluting with 0:100 to 1:1 ethyl acetate:hexanes), to give the title preparation (0.384 g, 57%). MS (ES): m/z=309 [M+H]+.

reactant | 2-chloro-3-(4-trifluoromethylphenyl)-pyrazine | ClC1=NC=CN=C1C1=CC=C(C=C1)C(F)(F)F | C11H6ClF3N2
reactant | 2-chloro-3-(4-chlorophenyl)-pyrazine | ClC1=NC=CN=C1C1=CC=C(C=C1)Cl | C10H6Cl2N2
reactant | 2-chloro-3-(4-trifluoromethylphenyl)-pyrazine | 2.20 mmol, 0.570 g | ClC1=NC=CN=C1C1=CC=C(C=C1)C(F)(F)F | C11H6ClF3N2
reactant | piperazine | 50.0 mmol, 4.31 g | N1CCNCC1 | C4H10N2
reactant | water | 50 mL | O | H2O
solvent | DCM | 70 mL | C(Cl)Cl | CH2Cl2
product | 3′-(4-Trifluoromethyl-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazine | FC(C1=CC=C(C=C1)C=1C(=NC=CN1)N1CCNCC1)(F)F | C15H15F3N4
